US04866089
Preparation of 6-methoxy-7-ethoxy-2,2-dimethyl-2H-chromene (P3)
In 80 ml of anhydrous tetrahydrofurane 5.0 g (20 millimoles) of 6-methoxy-7-methoxy-2,2-dimethyl-4-chromanone are dissolved whereupon 1.5 g of lithium aluminum hydride are added in small portions under stirring and the reaction mixture is heated to boiling for an hour. The reaction mixture is worked up according to Example 31. The product is purified by column chromatography. Thus 4.1 g of the desired compound are obtained in the form of a colorless oil, yield 88%.

reactant | tetrahydrofurane | 20 millimoles, 80 ml, 5.0 g | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-methoxy-7-methoxy-2,2-dimethyl-4-chromanone | COC=1C=C2C(CC(OC2=CC1OC)(C)C)=O | C13H16O4
product | 6-methoxy-7-ethoxy-2,2-dimethyl-2H-chromene | 4.1 g, yield 88% | COC=1C=C2C=CC(OC2=CC1OCC)(C)C | C14H18O3
